US07691882B2
2-(4-Fluoro-phenoxymethyl)-5-(2-nitro-ethyl)-pyridine
To an acetic acid (5.00 mL) solution of 6-(4-fluoro-phenoxymethyl)-pyridine-3-carbaldehyde (500 mg, 1.30 mmol) described in Manufacturing Example 72-1-2 were added nitromethane (923 mg, 15.1 mmol) and ammonium acetate (333 mg, 4.32 mmol) under nitrogen atmosphere, which was stirred for 2 hours at 105° C. Water and ethyl acetate were added to the reaction mixture, and the organic layer was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The solvent was evaporated from the filtrate under a reduced pressure. Dimethyl sulfoxide (10.0 mL) and acetic acid (600 μL) were added to the residue, and sodium borohydride (131 mg, 3.46 mmol) was then added at room temperature while cooling appropriately. Following 20 minutes of stirring, water was added dropwise at room temperature while cooling appropriately. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:1) to obtain the title compound (50 mg, 8.38%).

reactant | 6-(4-fluoro-phenoxymethyl)-pyridine-3-carbaldehyde | 1.30 mmol, 500 mg | FC1=CC=C(OCC2=CC=C(C=N2)C=O)C=C1 | C13H10FNO2
reactant | nitromethane | 15.1 mmol, 923 mg | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 4.32 mmol, 333 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 3.46 mmol, 131 mg | [BH4-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | 600 μL | C(C)(=O)O | C2H4O2
solvent | Dimethyl sulfoxide | 10.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5.00 mL | C(C)(=O)O | C2H4O2
product | 2-(4-Fluoro-phenoxymethyl)-5-(2-nitro-ethyl)-pyridine | 50 mg, 8.38% | FC1=CC=C(OCC2=NC=C(C=C2)CC[N+](=O)[O-])C=C1 | C14H13FN2O3
